US05679683
A solution of 2-fluoro-6-methoxybenzaldoxime (714 mg, 4.2 mmol) in Ac2O (3.6 mL) is heated at reflux for 4 hr. The reaction is cooled to r.t. and the volatiles are stripped off to give a beige solid, which is dried at 50° C. in a vacuum oven to give 2-fluoro-6-methoxybenzonitrile (635 mg, 84%). 1H NMR (DMSO) δ7.8-7.7 (1H, m), 7.14-7.07 (2H, m),3.95 (3H, s).

reactant | 2-fluoro-6-methoxybenzaldoxime | 4.2 mmol, 714 mg | FC1=C(C=NO)C(=CC=C1)OC | C8H8FNO2
solvent | Ac2O | 3.6 mL | CC(=O)OC(=O)C | C4H6O3
product | 2-fluoro-6-methoxybenzonitrile | 635 mg, 84% | FC1=C(C#N)C(=CC=C1)OC | C8H6FNO
